US04298541
Preparation of Trimethylsilylethyl Diphenyl Phosphine
A magnetically stirred mixture of 46.5 g (0.25 mole) diphenyl phosphine and 25 g (0.25 mole) of vinyl trimethyl silane, in a closed cylindrical quartz tube, was irradiated from about 3 cm distance with two 75 Watt Hanau tube immersion lamps, with a wide spectrum of ultraviolet irradiation, in a 15° C. water bath for 26 hours. A proton magnetic resonance spectrum of a sample of the resulting mixture exhibited no significant peaks in the vinyl region indicating a substantially complete addition.

reactant | diphenyl phosphine | 0.25 mole, 46.5 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | vinyl trimethyl silane | 0.25 mole, 25 g | C(=C)[Si](C)(C)C | C5H12Si
product | Trimethylsilylethyl Diphenyl Phosphine | C[Si](C)(C)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C17H23PSi
